US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(1-imino-ethyl)-piperidin-4-yl]-1H-1,3,6-triaza-s-indacene-5,7-dione:
A mixture of 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-1H-1,3,6-triaza-s-indacene-5,7-dione (109 mg, 0.2 mmol) and ethyl acetimidate (3 g) in Et3N (8 mL) was stirred at the room temperature for 110 h. After it was concentrated at 35° C. (the bath temperature) under reduced pressure, the mixture was subjected to chromatography [CH2Cl2/MeOH/28% aqueous NH4OH (90:10:1)] to furnish a fluorescent product which was purified again with HPLC to afford the title compound in TFA salt form (5.06 mg, 3.6%). 1H NMR (DMSO-d6) δ 1.93 (m, 2H), 2.19 (s, 3H, CH3), 2.21 (s, 3H, CH3), 2.35 (s, 3H, CH3), 3.26 (m, 1H), 3.40 (m, 1H), 3.58 (m, 1H), 3.86 (m, 1H), 3.91-4.26 (7H), 4.43 (m, 1H), 6.23 (d, J=7 Hz, 1H), 6.86 (d, J=7 Hz, 1H), 6.92 (d, J=7 Hz, 1H), 7.00 (s, 1H), 7.41 (d, J=7 Hz, 1H), 7.71 (s, 1H), 8.10 (s, 1H), 8.68 (br s, 1H, NH), 9.21 (br s, 1H, NH), 10.97 (br s, 1H, NH), 11.30 (br s, 1H, NH); ESI-MS m/z 598.7 (MH+).

reactant | 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-1H-1,3,6-triaza-s-indacene-5,7-dione | 0.2 mmol, 109 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C=2NC3=CC=4C(N(C(C4C=C3N2)=O)C2CCNCC2)=O)O)C=CC(=C1)C | C30H32N6O5
reactant | ethyl acetimidate | 3 g | C(C)(OCC)=N | C4H9NO
solvent | Et3N | 8 mL | CCN(CC)CC | C6H15N
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(1-imino-ethyl)-piperidin-4-yl]-1H-1,3,6-triaza-s-indacene-5,7-dione | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C=2NC3=CC=4C(N(C(C4C=C3N2)=O)C2CCN(CC2)C(C)=N)=O)O)C=CC(=C1)C | C32H35N7O5
